US07687491B2
(9g) {4-[3-(4-Isobutylphenyl)isoxazol-5-yl]-2-thienyl}methanol
To a solution of N-hydroxy-4-isobutylbenzenecarboximidoyl chloride (0.50 g, 2.4 mmol) that was obtained in Example 9 (9f) and t-butyl[(4-ethynyl-2-thienyl)methoxy]dimethylsilane (0.72 g, 2.8 mmol) that was obtained in Example 9 (9d) in ethyl acetate (10 ml) was added triethylamine (0.40 ml, 2.8 mmol) at 0° C. with stirring, and the resulting mixture was stirred at room temperature for 18 hours. After stirring, the reaction mixture was poured into water (50 ml) and extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride and dried over magnesium sulfate. After filtration, the filtrate was evaporated in vacuo. Subsequently, to a solution of the residue thus obtained in tetrahydrofuran (15 ml) was added tetrabutylammonium fluoride (a 1.0 M solution in tetrahydrofuran, 2.8 ml, 2.8 mmol) at 0° C. with stirring, and the resulting mixture was stirred at room temperature for 1 hour. After stirring, the reaction mixture was poured into water (50 ml) and extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride and dried over magnesium sulfate. After filtration, the filtrate was evaporated in vacuo. Subsequently, to the residue obtained was added a mixed solvent of ethyl acetate and hexane (1:3) with stirring, and the solid precipitated was collected by filtration using a Kiriyama funnel and washed with the same solvent to afford the title compound (0.44 g) in a yield of 59% as a white crystalline solid.

reactant | N-hydroxy-4-isobutylbenzenecarboximidoyl chloride | 2.4 mmol, 0.50 g | ON=C(C1=CC=C(C=C1)CC(C)C)Cl | C11H14ClNO
reactant | t-butyl[(4-ethynyl-2-thienyl)methoxy]dimethylsilane | 2.8 mmol, 0.72 g | C(C)(C)(C)[Si](C)(C)OCC=1SC=C(C1)C#C | C13H20OSSi
reactant | triethylamine | 2.8 mmol, 0.40 ml | C(C)N(CC)CC | C6H15N
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | water | 50 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | {4-[3-(4-Isobutylphenyl)isoxazol-5-yl]-2-thienyl}methanol | 0.44 g, yield of 59% | C(C(C)C)C1=CC=C(C=C1)C1=NOC(=C1)C=1C=C(SC1)CO | C18H19NO2S
